US07528147B2
1-[2-(5,6-Dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl][1,4′]bipiperidyl is prepared as described in Example 179a starting with 0.025 g of 1′-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl][1,4′]bipiperidyl instead of the [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl](4-trifluoromethylsulfanylbenzyl)amine used in Example 179a and 0.17 cm3 of 5N potassium hydroxide. 0.01 g of 1′-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl][1,4′]bipiperidyl is obtained, the characteristics of which are as follows:

reactant | 1′-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl][1,4′]bipiperidyl | 0.025 g | COC=1C=C2C(=CN(C2=CC1OC)C)C1=CC=2C(=NC=CC2CN2CCC(CC2)N2CCCCC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C36H43N5O4S
reactant | potassium hydroxide | 5N, 0.17 cm3 | [OH-].[K+]
product | 1′-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl][1,4′]bipiperidyl | 0.01 g | COC=1C=C2C(=CN(C2=CC1OC)C)C1=CC=2C(=NC=CC2CN2CCC(CC2)N2CCCCC2)N1 | C29H37N5O2
